US05444050
3-Bromophenol (2.84 g, 16.4 mmol) was dissolved in dimethylformamide (50 ml) in a dry 100 ml flask under nitrogen. Sodium hydride (0.7 g of a 60% suspension in mineral oil, washed with hexane, 16.7 mmol) was added in portions and the mixture was stirred for one hour at room temperature. Ethyl bromoacetate (1.85 ml, 16.7 mmol) was added drop-wise and the reaction was stirred overnight at room temperature. Approximately two-thirds of the solvent was removed under reduced pressure and the residue was mixed with water (150 ml) and extracted with methylene chloride (3×20 ml). The extracts were combined, washed with water (50 ml), saturated sodium chloride solution (50 ml), then dried (MgSO4). The solution was filtered and concentrated which gave 4.18 g (98%) of ethyl 3-bromophenyloxyacetate.

reactant | 3-Bromophenol | 16.4 mmol, 2.84 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | Ethyl bromoacetate | 16.7 mmol, 1.85 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 3-bromophenyloxyacetate | 4.18 g, 98% | BrC=1C=C(C=CC1)OCC(=O)OCC | C10H11BrO3
